US04455422
1.8 Grams of 6-[1-oxo-3-(4-phenyl-1-piperidyl)-propyl]-3,4-dihydrocarbostyril and 0.24 g of sodium hydride (50% in mineral oil) were mixed in 50 ml of dimethylformamide and the mixture was stirred at a room temperature for 3 hours. Then 0.8 g of methyl iodide was added thereto and stirred at a room temperature for 3 hours. The reaction mixture was poured into 150 ml of saturated sodium chloride aqueous solution and the organic layer was extracted with chloroform. The chloroform layer was washed with water, dried and chloroform was removed by distillation. The residue thus obtained was isolated and purified by preparative thin-layer chromatography and the desired product was converted into the hydrochloride then recrystallized from ethanol-water to obtain 1.5 g of 1-methyl-6-[1-oxo-3-(4-phenyl-1-piperidyl)-propyl]-3,4-dihydrocarbostyril monohydrochloride in light yellow plate-like crystals.

reactant | 6-[1-oxo-3-(4-phenyl-1-piperidyl)-propyl]-3,4-dihydrocarbostyril | O=C(CCN1CCC(CC1)C1=CC=CC=C1)C=1C=C2CCC(NC2=CC1)=O | C23H26N2O2
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | methyl iodide | 0.8 g | CI | CH3I
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-methyl-6-[1-oxo-3-(4-phenyl-1-piperidyl)-propyl]-3,4-dihydrocarbostyril monohydrochloride | 1.5 g | Cl.CN1C(=O)CCC2=CC(=CC=C12)C(CCN1CCC(CC1)C1=CC=CC=C1)=O | InChI=1S/C24H28N2O2.ClH/c1-25-22-9-7-21(17-20(22)8-10-24(25)28)23(27)13-16-26-14-11-19(12-15-26)18-5-3-2-4-6-18;/h2-7,9,17,19H,8,10-16H2,1H3;1H
